US07884101B2
Step 1.19a: Preparation of 4-(2-chloro-ethoxy)-3-(2-methyl-2H-pyrazol-3-yl)-phenylamine. Method V
A mixture of N-[4-(2-bromo-ethoxy)-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-acetamide (450 mg, 1.33 mmol), concentrated HCl (0.9 mL) in THF (4 mL) was heated with microwave irradiation at 150° C. for 30 minutes. The crude was concentrated in vacuo to give the title compound as a brown oil. Exact mass calculated for C12H14ClN2O 251.1. found 252.0 (MH+). This was used without purification in next step.

reactant | N-[4-(2-bromo-ethoxy)-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-acetamide | 1.33 mmol, 450 mg | BrCCOC1=C(C=C(C=C1)NC(C)=O)C=1N(N=CC1)C | C14H16BrN3O2
reactant | HCl | 0.9 mL | Cl | ClH
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 4-(2-chloro-ethoxy)-3-(2-methyl-2H-pyrazol-3-yl)-phenylamine | ClCCOC1=C(C=C(C=C1)N)C=1N(N=CC1)C | C12H14ClN3O
